US04230707
From 5.0 g (0.02 mol) of 2-amino-5-phenyl-3-thiophenecarboxylic acid, ethyl ester (Chemische Berichte, Vol. 99, pages 94-100, 1966) and 3.2 g (0.02 mol) of 6-chloro-3-pyridinecarboxylic acid (Aldrich Chemical Company), following the procedure of Example 3, there is obtained 0.4 g of 4-oxo-2-phenyl-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxylic acid; mp 387°-392° C. after recrystallization from pyridine.

reactant | 2-amino-5-phenyl-3-thiophenecarboxylic acid, ethyl ester | 0.02 mol, 5.0 g | NC=1SC(=CC1C(=O)OCC)C1=CC=CC=C1 | C13H13NO2S
reactant | 6-chloro-3-pyridinecarboxylic acid | 0.02 mol, 3.2 g | ClC1=CC=C(C=N1)C(=O)O | C6H4ClNO2
product | 4-oxo-2-phenyl-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxylic acid | 0.4 g | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)O)SC(=C2)C2=CC=CC=C2 | C17H10N2O3S
